US06500797B1
Sodium hydride (1.26 g, 0.057 mol, 95%) is charged to a 250 mL three-necked round-bottomed flask fitted with a magnetic stirrer, ice bath, addition funnel, internal thermometer and argon inlet. The contents of the reaction vessel are slurried with 50 mL of tetrahydrofuran (THF) and subsequently cooled to 0° C. 2,2-dimethyl-1,3-dioxan-4,6-dione (Meldrum's acid) (3.78 g, 0.026 mol) is dissolved in 20 mL of THF and the solution is subsequently added over 15 min. The evolution of gas indicates the reaction is ensuing. After 30 min, 2-naphthoyl chloride (5.00 g, 0.026 mol) which is dissolved in 30 mL of THF is added over 15 min. The mixture is allowed to warm to room temperature and stirred for 72 h. A solution of 3,7-dimethyl-1,6-octadien-3-ol (linalool) (4.05 g, 0.026 mol) dissolved in 30 mL of THF is added over 30 min. The mixture is heated to reflux for 18 h. The cooled mixture is poured into 100 mL of water and extracted with ether (50 mL) three times. The organic layers are washed with saturated NaHCO3 solution, water, dried over MgSO4, filtered, concentrated by rotary evaporation and purified by flash chromatography to yield 3,7-dimethyl-1,6-octadien-3-yl 3-(β-naphthyl)-3-oxo-propionate.

reactant | Sodium hydride | 0.057 mol, 1.26 g | [H-].[Na+]
reactant | 2,2-dimethyl-1,3-dioxan-4,6-dione | 0.026 mol, 3.78 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 2-naphthoyl chloride | 0.026 mol, 5.00 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | 3,7-dimethyl-1,6-octadien-3-ol | 0.026 mol, 4.05 g | CC(C=C)(CCC=C(C)C)O | C10H18O
solvent | THF | 20 mL | O1CCCC1 | C4H8O
solvent | THF | 30 mL | O1CCCC1 | C4H8O
solvent | THF | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 3,7-dimethyl-1,6-octadien-3-yl 3-(β-naphthyl)-3-oxo-propionate | C1=C(C=CC2=CC=CC=C12)C(CC(=O)OC(C=C)(CCC=C(C)C)C)=O | C23H26O3
